US04680365
A mixture containing 296 g of tris-(trimethylsiloxy)silane, 110 g of allyl acetate and 2.4 g of ruthenium supported on activated charcoal (5 percent by weight of ruthenium and 95 percent by weight of activated charcoal), in which the 2.4 g refers to the total wieght of the charcoal and the ruthenium, are heated to boiling under reflux (approx. 105° C.) for 4 hours. The tris-(trimethylsiloxy)-acetoxysilane yield is quantitative.

reactant | tris-(trimethylsiloxy)silane | 296 g | C[Si](O[SiH](O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C9H28O3Si4
reactant | allyl acetate | 110 g | C(C)(=O)OCC=C | C5H8O2
reactant | charcoal | C | CH4
catalyst | ruthenium | 2.4 g | [Ru] | Ru
product | tris-(trimethylsiloxy)-acetoxysilane | C[Si](O[Si](OC(C)=O)(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C11H30O5Si4
